US07034015B2
[2-chloro-4-({2-[(1E)-3-hydroxyprop-1-enyl]phenyl}amino)phenyl](2-methylphenyl)methanone (Compound 108)
Under an atmosphere of argon, a solution of {2-chloro-4-[(2-bromophenyl)amino]phenyl}(2-methylphenyl)methanone (300 mg) (disclosed in WO 01/42189) in dioxane (1.5 mL) and a solution of P-t-Bu3 (18 mg) in dioxane (1.0 mL) were added in turn to a Schlenk tube charged with Pd2(dba)3 (21 mg) and CsF (152 mg). (2E)-3-(tributylstannyl)prop-2-en-1-ol (273 mg) was then added by syringe, and the Schlenk tube was sealed, placed in an 35–50° C. oil bath, and stirred for 48 h. The reaction mixture was then cooled to room temperature, diluted with acetonitrile, and filtered through a pad of celite. The celite was washed with acetonitrile, and the combined organic phase was then washed thoroughly with petroleum ether and concentrated in vacuo. The product was purified by flash chromatography eluting with a mixture of petroleum ether/EtOAc 4:1 to afford the title compound as a yellow syrup.

reactant | {2-chloro-4-[(2-bromophenyl)amino]phenyl}(2-methylphenyl)methanone | 300 mg | ClC1=C(C=CC(=C1)NC1=C(C=CC=C1)Br)C(=O)C1=C(C=CC=C1)C | C20H15BrClNO
reactant | CsF | 152 mg | [F-].[Cs+]
reactant | (2E)-3-(tributylstannyl)prop-2-en-1-ol | 273 mg | C(CCC)[Sn](/C=C/CO)(CCCC)CCCC
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Pd2(dba)3 | 21 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [2-chloro-4-({2-[(1E)-3-hydroxyprop-1-enyl]phenyl}amino)phenyl](2-methylphenyl)methanone | ClC1=C(C=CC(=C1)NC1=C(C=CC=C1)\C=C\CO)C(=O)C1=C(C=CC=C1)C | C23H20ClNO2
